US04486586
7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(E)-3-trimethylammonio-1-propen-1-yl]-3-cephem-4-carboxylate (I-1D)
Trimethylamine hydrochloride (6.31 g, 66 mmole) was added to an aqueous NaOH solution (2N, 33 ml) covered with ethyl acetate (100 ml). The organic layer was separated, dried over NaOH pellets, and added to a suspension of diphenylmethyl 3-(3-iodo-1-propen-1-yl)-7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (X-1, 32 g, 33 mmole) in a mixture of ethyl acetate and n-hexane (300 ml/150 ml). The mixture was stirred for one hour at room temperature and then filtered to give the blocked title compound, which was treated with trifluoroacetic acid (50 ml) and anisole (10 ml) for one hour at room temperature. The mixture was concentrated under reduced pressure and the residue was triturated with ether to give 10.3 g of dark brown solid, which was treated with water (100 ml) at room temperature. After removal of insolubles by filtration, the filtrate was chromatographed on a column of HP-20 (200 ml) by eluting with 30% aqueous methanol. The eluate was concentrated and lyophilized to give 2.3 g of the crude title compound, which was purified by preparative HPLC (Waters Associates, System 500, PrepPAK 500/C18, 15% CH3OH) to afford 880 mg (5%) of the title compound I-1D. Estimated purity 75% (by HPLC).

reactant | Trimethylamine hydrochloride | 66 mmole, 6.31 g | Cl.CN(C)C
reactant | NaOH | 2N, 33 ml | [OH-].[Na+]
reactant | diphenylmethyl 3-(3-iodo-1-propen-1-yl)-7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | 33 mmole, 32 g | ICC=CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OC)=O)=O | C48H40IN5O5S2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | 300 ml | CCCCCC | C6H14
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(E)-3-trimethylammonio-1-propen-1-yl]-3-cephem-4-carboxylate | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\C[N+](C)(C)C)C(=O)[O-])C1=O)=N/OC | C19H24N6O5S2
